US06340759B1
To 3-(4-bromophenyl)isoquinolin-1-one (3.86 g) obtained by reacting N-methyl-o-toluamide (7.50 g) and 4-bromobenzonitrile (9.10 g) according to the method of Example 10-1 was added phosphorus oxychloride (38.6 g), and the resulting mixture was heated at 100° C. for 2 hr. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate and purified water. The ethyl acetate layer was washed with water, an aqueous solution of saturated sodium bicarbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting 1-chloro-3-(4-bromophenyl)isoquinoline was reacted as it was with N-ethylpiperazine (30 ml) at 120° C. for 8 hr. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate and purified water. The ethyl acetate layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 3-(4-bromophenyl)-1(4-ethylpiperazin-1-yl)isoquinoline (1.62 g) as a pale yellow oil.

reactant | N-methyl-o-toluamide | 7.50 g | CNC(=O)C=1C(=CC=CC1)C | C9H11NO
reactant | 4-bromobenzonitrile | 9.10 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | phosphorus oxychloride | 38.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-ethylpiperazine | 30 ml | C(C)N1CCNCC1 | C6H14N2
product | 3-(4-bromophenyl)-1(4-ethylpiperazin-1-yl)isoquinoline | 1.62 g | BrC1=CC=C(C=C1)C=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C21H22BrN3
